US05998436
Synthesis of 7-[3-(aminomethyl)azetidin-1-yl]-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 280 mg of N,N-dimethylformamide were added 80 mg of 1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 100 mg of 3-(aminomethyl)azetidine dihydrochloride, and 200 mg of N-methylpyrrolidine, and the mixture was stirred at 90° C. for 25 minutes. After adding 0.5 ml of ethanol, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 42 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 280 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 80 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
reactant | 3-(aminomethyl)azetidine dihydrochloride | 100 mg | Cl.Cl.NCC1CNC1
reactant | N-methylpyrrolidine | 200 mg | CN1CCCC1 | C5H11N
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 7-[3-(aminomethyl)azetidin-1-yl]-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 42 mg | NCC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC(=C(C=C1F)F)N)C(=O)O)=O)F | C19H15ClF3N5O3
